US06239142B1
N-(4-Chlorobenzyl)-2(hydroxymethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide
To a solution of N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide (0.955 g) from Example No. 34 in DMF (20 mL) is added potassium carbonate (0.567 g) followed by iodomethane (0.20 mL). The reaction is stirred at rt for 1 h. The reaction mixture is partitioned between water (50 mL) and CH2Cl2 (100 mL). The aqueous layer is extracted with CH2Cl2 (100 mL). The organic layer is removed in vacuo and insoluble material in the aqueous layer is filtered off. The resulting solid is recrystallized from ethanol to yield 0.825 g (83%) of the title compound as a white, crystalline solid.

reactant | N-(4-chlorobenzyl)-4-hydroxy-2-(hydroxymethyl)thieno[2,3-b]pyridine-5-carboxamide | 0.955 g | ClC1=CC=C(CNC(=O)C=2C(=C3C(=NC2)SC(=C3)CO)O)C=C1 | C16H13ClN2O3S
reactant | potassium carbonate | 0.567 g | C([O-])([O-])=O.[K+].[K+]
reactant | iodomethane | 0.20 mL | IC | CH3I
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-(4-Chlorobenzyl)-2(hydroxymethyl)-7-methyl-4-oxo-4,7-dihydrothieno[2,3-b]pyridine-5-carboxamide | 0.825 g, 83% | ClC1=CC=C(CNC(=O)C=2C(C3=C(N(C2)C)SC(=C3)CO)=O)C=C1 | C17H15ClN2O3S
